US05614517
4.8. 10-Methoxy-8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoic acid
3.4 g (9.36 mmol) of methyl 10-methoxy-8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoate dissolved in 50 ml of ethanol are introduced into a 100 ml round-bottomed flask, 3 ml of aqueous 30% sodium hydroxide are added and the mixture is heated at reflux for 3 h.

reactant | methyl 10-methoxy-8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoate | 9.36 mmol, 3.4 g | COC=1C=CC2=C(C(N3CCC4=C(C3=C2CCC(=O)OC)C=CC=C4)=O)C1 | C22H21NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 10-Methoxy-8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoic acid | COC=1C=CC2=C(C(N3CCC4=C(C3=C2CCC(=O)O)C=CC=C4)=O)C1 | C21H19NO4
